US09079866B2
6-Amino-3-{2′-[(1,1-dioxidothiomorpholin-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazine-2-carbonitrile
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 4-((2-bromophenyl)sulfonyl)thiomorpholine 1,1-dioxide. MS (ESI): mass calcd. for C21H18FN5O4S2, 487.08; m/z found, 488.1 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.26 (s, 1H), 8.08 (dd, J=8.0, 1.3, 1H), 7.83-7.77 (m, 1H), 7.73-7.68 (m, 1H), 7.68-7.63 (m, 1H), 7.51 (dd, J=7.6, 1.3, 1H), 7.44 (dd, J=10.9, 1.7, 1H), 7.40 (s, 2H), 7.35 (dd, J=7.9, 1.6, 1H), 3.31-3.23 (m, 4H), 3.11-3.04 (m, 4H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 4-((2-bromophenyl)sulfonyl)thiomorpholine 1,1-dioxide | BrC1=C(C=CC=C1)S(=O)(=O)N1CCS(CC1)(=O)=O | C10H12BrNO4S2
product | 6-Amino-3-{2′-[(1,1-dioxidothiomorpholin-4-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCS(CC1)(=O)=O)F | C21H18FN5O4S2
